US06878722B2
To a mixture of spiro[2.2]pentane-1,1-dicarboxylic acid methyl ester (400 mg, 2.30 mmol) in 3 mL of anhydrous t-BuOH was added 700 mg (2.50 mmol) of DPPA and 278 mg (2.70 mmol) of Et3N. The mixture was heated at reflux for 21 h and then partitioned between H2O and ether. The ether phase was dried over magnesium sulfate, filtered and concentrated in vacuo to yield an oil. To this oil was added 3 mL of a 4 M HCl/dioxane solution. This acidic solution was stirred at rt for 2 h and then concentrated in vacuo. The residue was triturated with ether to give 82 mg (20%) of 1-amino-spiro[2.2]pentane-1-carboxylic acid methyl ester hydrochloride salt as a white solid. 1H NMR (300 MHz, CDCl3) δ 9.19 (br s, 3H), 3.81 (s, 3H), 2.16, (d, J=5.5 Hz, 1H), 2.01 (d, J=5.5 Hz, 1H), 1.49 (m, 1H), 1.24, (m, 1H), 1.12 (m, 2H). LRMS of free amine: MS m/z 142 (M++1)

reactant | spiro[2.2]pentane-1,1-dicarboxylic acid methyl ester | 2.30 mmol, 400 mg | COC(=O)C1(CC12CC2)C(=O)O | C8H10O4
reactant | DPPA | 2.50 mmol, 700 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 2.70 mmol, 278 mg | CCN(CC)CC | C6H15N
reactant | HCl dioxane | 4 M | Cl.O1CCOCC1
solvent | t-BuOH | 3 mL | CC(C)(C)O | C4H10O
product | 1-amino-spiro[2.2]pentane-1-carboxylic acid methyl ester hydrochloride salt | 82 mg, 20% | Cl.COC(=O)C1(CC12CC2)N | InChI=1S/C7H11NO2.ClH/c1-10-5(9)7(8)4-6(7)2-3-6;/h2-4,8H2,1H3;1H
